US07932251B2
6-(4-(3-Bromopropyl)-3-(trifluoromethyl)-phenyl)-1-methyl-1H-imidazo[4,5-c]pyridine-4-carbonitrile (50 mg) and 2-oxopiperazine (103 mg) in DMF (750 μl) were heated at 100° C. in a microwave for 25 minutes. Purification by basic phase preparative LCMS afforded 1-methyl-6-{4-[3-(3-oxo-piperazin-1-yl)-propyl]-3-trifluoromethyl-phenyl}-1H-imidazo[4,5-c]pyridine-4-carbonitrile (15 mg).

reactant | 6-(4-(3-Bromopropyl)-3-(trifluoromethyl)-phenyl)-1-methyl-1H-imidazo[4,5-c]pyridine-4-carbonitrile | 50 mg | BrCCCC1=C(C=C(C=C1)C1=CC2=C(C(=N1)C#N)N=CN2C)C(F)(F)F | C18H14BrF3N4
reactant | 2-oxopiperazine | 103 mg | O=C1NCCNC1 | C4H8N2O
solvent | DMF | 750 μl | CN(C)C=O | C3H7NO
product | 1-methyl-6-{4-[3-(3-oxo-piperazin-1-yl)-propyl]-3-trifluoromethyl-phenyl}-1H-imidazo[4,5-c]pyridine-4-carbonitrile | 15 mg | CN1C=NC=2C(=NC(=CC21)C2=CC(=C(C=C2)CCCN2CC(NCC2)=O)C(F)(F)F)C#N | C22H21F3N6O
